US04788195
α-Methyl-4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzenemethanol
A 1.45 g portion of 1-[3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]ethanone was dissolved with stirring in 220 ml of ethanol. A 125 mg portion of sodium borohydride was added and stirring continued for 3 hours. A 63 mg portion of sodium borohydride was added and stirring continued overnight. A 2 ml portion of glacial acetic acid was added and the mixture evaporated. The solid was triturated with water, dried and recrystallized from 30 ml of ethanol giving 710 mg of the desired product, mp 145°-147° C.

reactant | 1-[3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]ethanone | N1=CC(=CC=C1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C(C)=O | C17H14N4O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | α-Methyl-4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzenemethanol | CC(O)C1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C17H16N4O
